US04705737
From 200 g of anhydrous aluminum chloride, 153 ml of benzenesulfonyl chloride, 138 ml of bromobenzene, and 600 ml of methylene chloride was prepared 220 g of p-bromophenyl-phenyl-sulfone according to the method of Journal of Chem. Soc., p. 2508 (1960). To 100 ml of chlorosulfonic acid was added 100 g of p-bromophenylphenylsulfone, and after stirring the mixture for 4 hours at 130° to 140° C., the mixture was poured into ice water to provide 121 g of 3-(4-bromophenylsulfonyl)benzenesulfonyl chloride.

reactant | aluminum chloride | 200 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzenesulfonyl chloride | 153 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | bromobenzene | 138 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | p-bromophenyl-phenyl-sulfone | 220 g | BrC1=CC(=C(C=C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C1=CC=CC=C1)C1=CC=CC=C1 | C24H16Br2O2S
reactant | chlorosulfonic acid | 100 ml | ClS(=O)(=O)O | ClHO3S
reactant | p-bromophenylphenylsulfone | 100 g | BrC1=CC(=C(C=C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C1=CC=CC=C1)C1=CC=CC=C1 | C24H16Br2O2S
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-bromophenylsulfonyl)benzenesulfonyl chloride | 121 g | BrC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H8BrClO4S2
